US04364956
A mixture of ethyl 5-(3,4-dihydroxyphenyl)-4-oxo-4H-pyran-2-carboxylate (3.0 g), anhydrous potassium carbonate (6.0 g) and benzyl bromide (3.0 ml) in dry DMF (30 ml) was stirred at room temperature for 2 hours and then filtered. The filtrate was cooled, acidified with 2 N hydrochloric acid (20 ml) and diluted with water (80 ml). The solid product was recrystallised from ethanol to give ethyl 5-(3,4-dibenzyloxyphenyl)-4-oxo-4H-pyran-2-carboxylate (mp 122°-125° C.).

reactant | ethyl 5-(3,4-dihydroxyphenyl)-4-oxo-4H-pyran-2-carboxylate | 3.0 g | OC=1C=C(C=CC1O)C=1C(C=C(OC1)C(=O)OCC)=O | C14H12O6
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 3.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | ethyl 5-(3,4-dibenzyloxyphenyl)-4-oxo-4H-pyran-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=1C(C=C(OC1)C(=O)OCC)=O | C28H24O6
